US04064174
This process is described in U.S. Pat. No. 4,028,418 Gradual addition of dichloroacetyl chloride to a stirred solution of 2,3-dimethyl-2-butene in diisobutyl ketone containing suspended zinc particles resulted in a yield of 2-chloro-3,3,4,4- tetramethylcyclobutanone of 75%, calculated on starting dichloroacetyl chloride of 3.9, a molar ratio of dichloroacetyl chloride to 2,3-dimethyl-2-butene of 1.3, a temperature of 43° C, zinc in the form of turnings having a largest dimension of 0.841 mm and a starting concentration of 2,3-dimethyl-2-butene of 2.4 mol per liter of diisobutyl ketone. Modifying this experiment by reducing the molar ratio of zinc to dichloroacetyl chloride to 1.1 resulted in a decrease in yield to 51%, the theoretical yield still being 77.4% cf. Example VIII of U.S. Pat. No. 4,028,418.

reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 2,3-dimethyl-2-butene | CC(C)=C(C)C | C6H12
solvent | diisobutyl ketone | C(C(C)C)C(=O)CC(C)C | C9H18O
catalyst | zinc | [Zn] | Zn
product | 2-chloro-3,3,4,4- tetramethylcyclobutanone | ClC1C(C(C1(C)C)(C)C)=O | C8H13ClO
